US07507737B2
Step C: 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carboxylic acid ethyl ester.
A mixture of 2-ethanesulfonyl-4-methyl-pyrimidine-5-carboxylic acid ethyl ester (0.30 g, 1.18 mmol) and 3-(1-methyl-piperidin-4-yl)-propylamine (0.18 mg, 1.10 mmol) in EtOH (3 mL) was heated in a sealed tube at 100° C. for 6 h. The mixture was concentrated and purified by FCC to give 200 mg (53%). 1H NMR (CDCl3): 8.88-8.72 (m, 1H), 5.60-5.44 (m, 1H), 4.31 (q, J=7.2 Hz, 2H), 3.52-3.39 (m, 2H), 2.91-2.77 (m, 2H), 2.64 (s, 3H), 2.26 (s, 3H), 1.94-1.85 (m, 2H), 1.72-1.57 (m, 4H), 1.41-1.20 (m, 8H).

reactant | 2-ethanesulfonyl-4-methyl-pyrimidine-5-carboxylic acid ethyl ester | 1.18 mmol, 0.30 g | C(C)OC(=O)C=1C(=NC(=NC1)S(=O)(=O)CC)C | C10H14N2O4S
reactant | 3-(1-methyl-piperidin-4-yl)-propylamine | 1.10 mmol, 0.18 mg | CN1CCC(CC1)CCCN | C9H20N2
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)NCCCC1CCN(CC1)C)C | C17H28N4O2
